US06313116B1
4Methoxy-2-(piperidin-1-yl)benzothiazole-7-carboylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide
Starting from 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (125 mg) in dimethyl formamide (10 ml), sodium hexamethyldisilazide in tetrahydrofuran (1.1 ml, 1.0 M), and 4-methoxy-2-(piperidin-1-yl)benzothiazole-7-carboxylic acid 4-nitrophenyl ester (210 mg). Purification by flash chromatography (eluent 5% methanol in dichloromethane) followed by trituration with ethyl acetate yielded the title compound as an off-white solid (152 mg). TLC Rf 0.48 (ethyl acetate); Mpt 290-291° C.

reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 125 mg | NC1=C(C=NN1C)C#N | C5H6N4
reactant | 4-methoxy-2-(piperidin-1-yl)benzothiazole-7-carboxylic acid 4-nitrophenyl ester | 210 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(SC21)N2CCCCC2)OC | C20H19N3O5S
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | sodium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
solvent | tetrahydrofuran | 1.0 M, 1.1 ml | O1CCCC1 | C4H8O
product | 4Methoxy-2-(piperidin-1-yl)benzothiazole-7-carboylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)amide | 152 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(SC21)N2CCCCC2)OC | C19H20N6O2S
